US06169090A
4-Bromo-2-(1,1-dimethoxyethyl)-7-methoxyfuro[2,3-c]pyridine
A solution of 2-acetyl-4-bromo-7-methoxyfuro[2,3-c]pyridine (1.4 g), trimethylorthoformate (1.1 g) and p-toluenesulfonic acid monohydrate (1.2 g) in dry methanol (50 ml) was heated at reflux for 3 h. The mixture was cooled and the methanol removed in vacuo. The residue was taken up in ethyl acetate (100 ml), washed with saturated sodium bicarbonate solution (50 ml) and brine (50 ml), dried over magnesium sulfate, filtered and the solvent removed in vacuo. Purification by column chromatography on silica eluting with 33% ethyl acetate in hexane gave the title compound (contaminated with 15% 2-acetyl-4-bromo-7-methoxyfuro[2,3-c]pyridine) as a white solid (1.0 g).

reactant | 2-acetyl-4-bromo-7-methoxyfuro[2,3-c]pyridine | 1.4 g | C(C)(=O)C1=CC=2C(=C(N=CC2Br)OC)O1 | C10H8BrNO3
reactant | trimethylorthoformate | 1.1 g | COC(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid monohydrate | 1.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 50 ml | CO | CH4O
product | 4-Bromo-2-(1,1-dimethoxyethyl)-7-methoxyfuro[2,3-c]pyridine | 1.0 g, 15% | BrC1=C2C(=C(N=C1)OC)OC(=C2)C(C)(OC)OC | C12H14BrNO4
